US04270948
Preparation of α-[4 -(4-Trifluoromethylphenoxy)phenoxy]-propionamide
18 g of p-chloro-α,α,α-trifluorotoluene and 18 g of α-(p-hydroxyphenoxy)propionamide were dissolved in 50 ml of dimethyl sulfoxide, and 5.6 g of potassium hydroxide was added. The reaction was performed at 130° to 150° C. for about 5 hours. After the reaction, the reaction product was purified in a customary manner to afford the final product having a melting point of 157° to 158° C. The yield was 50%.

reactant | p-chloro-α,α,α-trifluorotoluene | 18 g | ClC1=CC=C(C=C1)C(F)(F)F | C7H4ClF3
reactant | α-(p-hydroxyphenoxy)propionamide | 18 g | OC1=CC=C(OC(C(=O)N)C)C=C1 | C9H11NO3
reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | α-[4 -(4-Trifluoromethylphenoxy)phenoxy]-propionamide | yield was 50% | FC(C1=CC=C(OC2=CC=C(OC(C(=O)N)C)C=C2)C=C1)(F)F | C16H14F3NO3
